US07663301B2
To a solution of methyltriphenylphosphonium bromide (714 mg, 2 mmol) in ether at 0° C. was added dropwise 1.6 M n-BuLi solution in hexane (1.25 mL, 2.00 mmol). The solution was stirred at 0° C. for 40 min and then was warmed to room temperature. A solution of 2-formyl-9,9-dioctylfluorene (585 mg, 1.4 mmol) was then added and reaction mixture was stirred overnight. The reaction mixture was quenched with 20 mL of 1% HCl. The mixture was extracted with ether and the organic layer was washed with NaHCO3 solution, and brine solution, and dried over MgSO4. The solvent was removed in vacuo and the product was purified by column chromatography on silica gel using hexane as the elutant to afford the purified 2-vinyl-9,9-dioctylfluorene (0.2834 g, 49% yield). EI-MS: 416 (M+), 360,192 (100). 1H NMR (CDCl3) δ 7.66 (m, 2H), 7.42-7.32 (m, 5H), 6.83 (dd, 1H), 5.82 (d, 1H), 5.28 (d, 1H), 1.97 (m, 4H), 1.28-1.06 (m, 22H), 0.83 (t, 5H), 0.63 (t, 3H). 13C NMR (CDCl3) δ151.09, 151.00, 141.08, 140.8, 137.51, 136.47, 127.05, 126.77, 125.21, 122.88, 120.54, 119.69 (2C), 112.89, 54.97, 40.39, 31.84, 31.65, 30.09, 29.25, 23.75, 22.65, 14.10

reactant | n-BuLi | 1.6 M | [Li]CCCC
reactant | hexane | 2.00 mmol, 1.25 mL | CCCCCC | C6H14
reactant | 2-formyl-9,9-dioctylfluorene | 1.4 mmol, 585 mg | C(=O)C1=CC=2C(C3=CC=CC=C3C2C=C1)(CCCCCCCC)CCCCCCCC | C30H42O
catalyst | methyltriphenylphosphonium bromide | 2 mmol, 714 mg | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ether | CCOCC | C4H10O
product | 2-vinyl-9,9-dioctylfluorene | 0.2834 g, 49% yield | C(=C)C1=CC=2C(C3=CC=CC=C3C2C=C1)(CCCCCCCC)CCCCCCCC | C31H44
